US04259336
74.0 gm (0.32 mol) of 3-chloro-benzo[b]thiophene-2-carboxylic acid chloride (m.p. 112°-113° C.) were stirred with a solution of 25.6 gm (0.64 mol) of sodium hydroxide in 250 cc of water for 12 hours while keeping the reaction temperature at 50° C. Thereafter 66.6 gm (0.64 mol) of solid sodium hydrogen sulfite were added to the neutral-reacting solution. The reaction mixture was made slightly alkaline by addition of a 40% sodium hydroxide solution and heated for 16 hours to 143° C. in an autoclave after addition of 3.0 gm (0.03 mol) of copper(I)-chloride. After cooling, the mixture was adjusted to pH 4 by adding hydrochloric acid, filtered and extracted once with 200 cc of ethyl acetate to remove the residual unreacted starting material. After further acidification to pH 1 and by addition of 60 gm of sodium chloride a colorless precipitate was obtained from the aqueous phase, which was suction-filtered off, washed with 30 cc of saturated aqueous sodium chloride solution and suction-filtered. The reaction product was dissolved in warm methanol and separated from the insoluble excess sodium chloride. The solvent was evaporated in vacuo, and the residue was dried by azeotropic distillation with 50 cc of toluene. 43 gm (48% of theory) of colorless crude sodium 2-carboxy-benzo[b]thiophene-3-sulfonate were obtained, which were further processed without further purification.

reactant | 3-chloro-benzo[b]thiophene-2-carboxylic acid chloride | 0.32 mol, 74.0 gm | ClC=1C2=C(SC1C(=O)Cl)C=CC=C2 | C9H4Cl2OS
reactant | sodium hydroxide | 0.64 mol, 25.6 gm | [OH-].[Na+]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 cc | O | H2O
catalyst | copper(I)-chloride | 0.03 mol, 3.0 gm | [Cu]Cl
product | sodium 2-carboxy-benzo[b]thiophene-3-sulfonate | 43 gm, 48% | C(=O)(O)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)[O-].[Na+] | InChI=1S/C9H6O5S2.Na/c10-9(11)7-8(16(12,13)14)5-3-1-2-4-6(5)15-7;/h1-4H,(H,10,11)(H,12,13,14);/q;+1/p-1
